US04725608
To a solution of N-(phenylcarbamoylimino)pyridinium ylide (0.64 g) in a mixture of ethanol (30 ml) and water (10 ml) was added sodium borohydride (0.20 g) at ambient temperature. After being stirred for 4 hours, the reaction mixture was acidified with 1N hydrochloric acid, concentrated to a volume of ca. 15 ml. The crystalline precipitate was collected, washed with water and dried in vacuo. The crude product was dissolved in ethyl acetate and extracted with 10% hydrochloric acid (20 ml). The extract was adjusted to pH 3 with aqueous sodium bicarbonate and extracted with ethyl acetate (30 ml). The organic layer was washed with aqueous sodium bicarbonate (10 ml), dried over magnesium sulfate and evaporated to give N-(phenylcarbamoylamino)-1,2,3,6-tetrahydropyridine (0.28 g), which was recrystallized from ethyl acetate to afford colorless needles (0.15 g). mp: 157°-159° C.

reactant | N-(phenylcarbamoylimino)pyridinium | C1(=CC=CC=C1)NC(=O)N=[N+]1CC=CC=C1
reactant | sodium borohydride | 0.20 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | N-(phenylcarbamoylamino)-1,2,3,6-tetrahydropyridine | 0.28 g | C1(=CC=CC=C1)NC(=O)NN1CCC=CC1 | C12H15N3O
